US07732452B2
Rac-4-[2-(3,4-Dichloro-phenoxy)-2-fluoro-acetylamino]-thiophene-3-carboxylic acid
In analogy to Example 58, the title compound was prepared using 4-(2-chloro-2-fluoro-acetylamino)-thiophene-3-carboxylic acid methyl ester and 3,4-dichlorophenol. MS (m/e): 362.0 (M−H).

reactant | 4-(2-chloro-2-fluoro-acetylamino)-thiophene-3-carboxylic acid methyl ester | COC(=O)C1=CSC=C1NC(C(F)Cl)=O | C8H7ClFNO3S
reactant | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
product | Rac-4-[2-(3,4-Dichloro-phenoxy)-2-fluoro-acetylamino]-thiophene-3-carboxylic acid | ClC=1C=C(OC(C(=O)NC=2C(=CSC2)C(=O)O)F)C=CC1Cl | C13H8Cl2FNO4S
